US05801170
4-(1,2,4-Triazol-1-yl)bromobenzene
4-(1,2,4-Triazol-1-yl)aniline (400 mg, 2.5 mmol) in 48% HBr (10 ml) at -5° C. was stirred while sodium nitrite (173 mg, 2.5 mmol) was added portionwise over 5 minutes. The brown sludge was left stirring for 15 minutes and then added portionwise over 5 minutes to a refluxing mixture of copper (I) bromide (358 mg, 2.5 mmol) in 48% HBr (2 ml). The mixture was then heated at reflux for 1 minute, allowed to cool slightly, and poured into 10% ethylene diamine solution (20 ml). The aqueous solution was extracted with ethyl acetate, dried (Na2SO4), and evaporated to dryness under reduced pressure. The resulting mixture was purified by column chromatography on silica eluting with n-pentane/ethyl acetate (4-10%) to afford the title compound as a white solid (344 mg, 61%).

reactant | 4-(1,2,4-Triazol-1-yl)aniline | 2.5 mmol, 400 mg | N1(N=CN=C1)C1=CC=C(N)C=C1 | C8H8N4
reactant | sodium nitrite | 2.5 mmol, 173 mg | N(=O)[O-].[Na+]
reactant | ethylene diamine | 20 ml | C(CN)N | C2H8N2
reactant | HBr | 10 ml | Br | BrH
reactant | HBr | 2 ml | Br | BrH
catalyst | copper (I) bromide | 2.5 mmol, 358 mg | [Cu]Br
product | 4-(1,2,4-Triazol-1-yl)bromobenzene | 344 mg, 61% | N1(N=CN=C1)C1=CC=C(C=C1)Br | C8H6BrN3
